2141-03-15 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-3-14**] 09:56 AM
 MULTI LUMEN - START [**2141-3-14**] 10:44 AM
 URINE CULTURE - At [**2141-3-14**] 10:45 AM
 ARTERIAL LINE - START [**2141-3-14**] 07:00 PM
 MULTI LUMEN - STOP [**2141-3-15**] 12:10 AM
   Pressure support trial in am: had low Vt. Attempted CPAP but low RR.
   Will wean decrease sedation and try again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Lidocaine - 2 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-14**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-15**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 83 (75 - 83) bpm
   BP: 81/53(63) {79/51(61) - 99/63(75)} mmHg
   RR: 19 (9 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,124 mL
                                                                    331 mL
   PO:
             TF:
   IVF:
                                                                  1,034 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                    185 mL
                                                                    125 mL
   Urine:
                                                                    185 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    939 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 625 (625 - 625) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/32/161/26/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 403
   Physical Examination
   GENERAL: WDWN obese male intubated. Responds to commands, denies pain
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP flat
   CARDIAC: PMI laterally displaced. RR, normal S1, S2. 2/6 systolic
   murmur at USB.  No r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Clear anteriorly.
   ABDOMEN: Soft, nondistended.  No abdominal bruits.
   EXTREMITIES: Trace edema b/l.  Extremities are cool with palpable
   pulses.
   SKIN: Ecchymoses L arm
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 1+ PT 1+
   Neuro:  Sedated, intubated.  Withdraws to pain and nods head
   appropriately to questions.
   Labs / Radiology
   129 K/uL
   11.5 g/dL
   135 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.8 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   34.0 %
   13.2 K/uL
        [image002.jpg]  Prior WBC 18.7  Prior Plt 215 Cr 2.1<-1.9<1.5
   CK 1144 <-99 [**2141-3-14**]
   Trop 0.10<-0.02 [**2141-3-14**]
                             [**2141-3-14**]  10:48 AM
                             [**2141-3-14**]  12:18 PM
                             [**2141-3-14**]  07:37 PM
                             [**2141-3-15**]  04:12 AM
                             [**2141-3-15**]  04:31 AM
   WBC
   18.7
   13.2
   Hct
   36.6
   34.0
   Plt
   215
   129
   Cr
   2.1
   2.1
   TropT
   0.10
   TCO2
   26
   27
   23
   Glucose
   267
   135
   Other labs: PT / PTT / INR:16.4/32.1/1.5, CK / CKMB /
   Troponin-T:1144/4/0.10, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, LDH:367 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5
   mg/dL
   [**2141-3-14**] TTE: The left ventricular cavity is dilated. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is severely
   depressed (LVEF= 20 %). The right ventricular cavity is mildly dilated
   with normal free wall contractility. The aortic valve leaflets are
   mildly thickened. The mitral valve leaflets are mildly thickened. Mild
   to moderate ([**1-13**]+) mitral regurgitation is seen. There is no
   pericardial effusion.
   IMPRESSION: Suboptimal image quality. Focused views. Severe left
   ventricular sysolic dysfunction. Mild to moderate mitral regurgitation.
   Compared with the prior study (images reviewed) of [**2141-3-9**], this is a
   limited/emergent/focused study and direct comparison cannot be made.
   Assessment and Plan
   ASSESSMENT AND PLAN: 73 year old man with hx of CAD s/p CABG and PCI,
   severe ischemic cardiomyopathy with EF ~20%, scar mediated VT s/p biV
   ICD implanation, CKD, and afib admitted with pancreatitis, course c/b
   VT arrest this AM.
   .
   # s/p VT arrest: This AM with unclear precipitant.  He had been feeling
   well without chest pain or shortness of breath.  Unlikely ischemic
   event and clinically more consistent with scar.  Electrolytes were
   within normal limits and patient had not missed any of his
   anti-arrhythmics.  VT was below the detection rate of the ICD, easily
   paced out but recurrent until patient was started on Lido/Amio gtts.
   Currently paced at rate of 75.  Of note, patient has history of
   difficult to control VT - he had previously been treated with
   amiodarone however this interfered with the detection by the
   pacemaker.  For this reason he was started on mexilitine and sotalol
   previously.
   - Continue lidocaine, amiodarone gtts for now.  Will defer to EP
   regarding future anti-arrhythmic therapy.   EP may want to test device
   in the future.
   - Levophed to maintain MAPs>65.
   - Will not cycle cardiac enzymes as patient is not willing to undergo
   catheterization if positive.  This has been discussed with him by Dr.
   [**First Name (STitle) **].
   - Currently intubated for airway protection, wean vent as tolerated.
   Likely keep intubated overnight.
   - No need for cooling given patient's current responsiveness.
   - Check TSH, dig level
   - Will hold sotalol, mexilitine for now.  Do not want to double up on
   medications.
   - Follow LFTs, creatinine post arrest.  High risk for acute renal
   failure.
   - Monitor on telemetry in CCU setting.
   .
   # s/p intubation: For airway protection but no evidence of respiratory
   failure.  Last ABG was 7.43/48/200.  CXR shows ET tube 3.1 cm above
   carina.
   - HOB elevation, chlorhexidine
   - Consider extubation in AM.  SBT today.
   .
   # CAD: Patient has known 2vd and is s/p CABG [**2133**].  He reported CP at
   rest prior to this admission, CP free this admission with negative
   biomarkers.  Myocardial viability study revealed some viability defect
   within the inferior wall defect - minimal.  Patient refused
   valvulplasty and angioplasy.  Biomarkers elevated but unlikely to
   change management since pt has refused cath and interventions. Will
   trend
   - continue aspirin/statin.  Holding beta blocker as above.
   - cautious use of SLN if CP recurs given severe AS
   - Continue to monitor on telemetry
   - trend biomarkers
   .
   # Abdominal pain/Diarrhea: Had resolved prior to transfer to CCU.
   History appears similar to prior episode in [**1-20**].  Symptoms and labs
   felt to be c/w pancreatitis.  No cholethiasis apprecaited on abdominal
   u/s.  C. diff negative x1.
   - OG tube in place
   - Continue PPI, sucralfate, antiemetics per home regimen
   .
   # Pump: Chronic systolic CHF.  The patient has known severe HK and AK
   of LV c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.
   After discussion with Dr. [**First Name (STitle) **], echocardiogram during today's code
   showed worsened LV function.
   - continue aspirin/statin.
   - Consider diuresis today if poor UOP.
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code
   -          continue to follow
   -          avoid nephrotoxins
   -          renally dose meds
   #Thrombocytopenia: Repeat in om
   .
   # Anxiety: not acute issue
   .
   # FEN: NPO, OG tube in place
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: full confirmed with patient by [**Hospital Unit Name 4282**] team.  Will rediscuss with
   patient once able.   Patient is not interested in catheterization,
   valvuloplasty, or ablation procedures according to discussion with his
   [**Hospital Unit Name 4282**] team and attg Dr. [**First Name (STitle) **].
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-14**] 06:00 PM
   Arterial Line - [**2141-3-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-16 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated.
   - Morphine given for substantial chest wall pain s/p CPR.
   - Taken off lidocaine gtt and changed to PO amiodarone. Had episode of
   VT with hypotension -> ICD fired and rhythm converted. Given IV amio
   bolus and gtt restarted. Also restarted on mexiletine.
   - Had second episode of VT with hypotension -> converted with 4 ICD
   shocks. Given another 150mg IV amio and 100mg IV lidocaine bolus.
   S: C/o chest pain. With VT runs, noted palpitations and
   lightheadedness. No SOB. Feels a little wheezy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-3-15**] 08:40 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-15**] 09:00 PM
   Morphine Sulfate - [**2141-3-16**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-16**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.7
C (98
   HR: 77 (75 - 104) bpm
   BP: 149/88(109) {102/63(76) - 149/96(114)} mmHg
   RR: 25 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: VT (Ventricular Tachycardia)
             Total In:
                                                                  2,070 mL
                                                                    393 mL
   PO:
                                                                    840 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,110 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                    200 mL
   Urine:
                                                                    515 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,555 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   PS : 5 cmH2O
   RR (Set): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 20
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.33/48/99.[**Numeric Identifier 128**]/24/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 283
   Physical Examination
   GENERAL: WDWN obese male, NAD.
   NECK: Supple with no JVD
   CARDIAC: RRR, normal S1, S2. 2/6 systolic murmur at apex.  No r/g.
   Chest wall very TTP.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing
   bilaterally, most pronounced over upper airway. Coarse BS throughout.
   ABDOMEN: NABS. Soft, mild periumbilical TTP without reb or guard,
   nondistended.
   EXTREMITIES: Distal LE cool, otherwise WWP. 2+ radial and DP pulses
   bilat. No edema.
   Labs / Radiology
   107 K/uL
   11.0 g/dL
   113 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   28 mg/dL
   105 mEq/L
   136 mEq/L
   32.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2141-3-14**]  10:48 AM
                             [**2141-3-14**]  12:18 PM
                             [**2141-3-14**]  07:37 PM
                             [**2141-3-15**]  04:12 AM
                             [**2141-3-15**]  04:31 AM
                             [**2141-3-15**]  08:22 AM
                             [**2141-3-15**]  12:37 PM
                             [**2141-3-15**]  11:04 PM
                             [**2141-3-16**]  04:22 AM
   WBC
   18.7
   13.2
   13.0
   Hct
   36.6
   34.0
   32.9
   Plt
   [**Telephone/Fax (3) 8312**]07
   Cr
   2.1
   2.1
   2.2
   1.7
   TropT
   0.10
   0.11
   TCO2
   26
   27
   23
   26
   Glucose
   [**Telephone/Fax (3) 8313**]
   Other labs: PT / PTT / INR:16.4/32.1/1.5, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, LDH:367 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 73 year old man with hx of CAD s/p CABG and PCI,
   severe ischemic cardiomyopathy with EF ~20%, scar mediated VT s/p biV
   ICD implanation, CKD, and afib admitted with pancreatitis, course c/b
   VT arrest this AM.
   .
   # s/p VT arrest: Pt with recurrent VT despite Amiodarone, received 4
   shocks overnight. Mexiletine restarted overnight.  Currently on
   Amiodarone gtt and mexiletine.
   - will discuss further with EP service
   - Will need to have discussion with family and patient re desire for VT
   ablation and goals of care given continued VT despite maximal medical
   therapy
   # CAD: - current chest pain is focal and likely related to CPR and
   shocks.
   - continue aspirin/statin.  Holding beta blocker given low BP
   - cautious use of SLN if CP recurs given severe AS
   - Continue to monitor on telemetry
   - Little relief with morphine, will transition to dilaudid
   .
   # Abdominal pain/Diarrhea: Had resolved prior to transfer to CCU.
   History appears similar to prior episode in [**1-20**].  Symptoms and labs
   felt to be c/w pancreatitis.  No cholethiasis apprecaited on abdominal
   u/s.  C. diff negative x1.
   - OG tube in place
   - Continue PPI, sucralfate, antiemetics per home regimen
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during today's code showed
   worsened LV function.
   - continue aspirin/statin.
   - Consider diuresis today if poor UOP though this may be post-arrest
   ATN.
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code
   -          continue to follow
   -          avoid nephrotoxins
   -          renally dose meds
   -          Check urine lytes
   -
   #Thrombocytopenia: Repeat in pm
   .
   # Anxiety: not acute issue
   .
   # FEN: NPO, OG tube in place
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: full confirmed with patient by [**Hospital Unit Name 4282**] team.  Patient is not
   interested in catheterization, valvuloplasty, or ablation procedures
   according to discussion with his [**Hospital Unit Name 4282**] team and attg Dr. [**First Name (STitle) **].
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-14**] 06:00 PM
   Arterial Line - [**2141-3-14**] 07:00 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Recurrent vt requiring icd shock; amio load accelerated with iv gtt
   Also receiving mexiletine
   Patient continues to decline high risk valve surgery, and vt ablation
   logistically problem[**Name (NI) 1114**] due to severe aortic stenosis
   We will continue medical management and patient realizes that incessant
   vt is possible.  Has not yet decided on whether to turn off
   defibrillator should repetitive shocks occur.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-3-16**]
   10:42 ------

2141-03-17 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2141-3-16**] 09:00 PM
 EKG - At [**2141-3-17**] 12:00 AM
   -Was in Vtach for 30 min last night, held pressures, given 150mg IV
   amiodarone and increased rate to 1mg/ml, also given 100mg lidocaine IV
   bolus, broke on his own
   -questionable different underlying rhythm?Aflutter
   -got 1mg Ativan for PTSDish symptoms
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Morphine Sulfate - [**2141-3-16**] 07:00 AM
   Pantoprazole (Protonix) - [**2141-3-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-16**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2141-3-16**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-17**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 75 (75 - 136) bpm
   BP: 110/79(89) {91/63(74) - 154/86(109)} mmHg
   RR: 18 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,474 mL
                                                                    312 mL
   PO:
                                                                  1,680 mL
             TF:
   IVF:
                                                                    794 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    230 mL
   Urine:
                                                                    790 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,684 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   GENERAL: WDWN mildly diaphoretic obese male, NAD.
   NECK: Supple with no JVD
   CARDIAC: RRR, normal S1, S2. 2/6 systolic murmur at apex.  No r/g.
   Chest wall very TTP.
   LUNGS: Resp were unlabored, no accessory muscle use. Wheezing
   bilaterally, most pronounced over upper airway. Coarse BS throughout.
   ABDOMEN: NABS. Soft, mild periumbilical TTP without reb or guard,
   nondistended.
   EXTREMITIES: Distal LE cool, otherwise WWP. 2+ radial and DP pulses
   bilat. No edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   10.5 g/dL
   111 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   32 mg/dL
   109 mEq/L
   137 mEq/L
   30.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2141-3-14**]  12:18 PM
                             [**2141-3-14**]  07:37 PM
                             [**2141-3-15**]  04:12 AM
                             [**2141-3-15**]  04:31 AM
                             [**2141-3-15**]  08:22 AM
                             [**2141-3-15**]  12:37 PM
                             [**2141-3-15**]  11:04 PM
                             [**2141-3-16**]  04:22 AM
                             [**2141-3-16**]  05:39 PM
                             [**2141-3-17**]  04:45 AM
   WBC
   13.2
   13.0
   15.6
   11.2
   Hct
   34.0
   32.9
   35.9
   30.3
   Plt
   129
   114
   107
   150
   111
   Cr
   2.1
   2.2
   1.7
   2.0
   1.6
   TropT
   0.10
   0.11
   TCO2
   26
   27
   23
   26
   Glucose
   135
   113
   111
   Other labs: PT / PTT / INR:15.2/30.5/1.3, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   ASSESSMENT AND PLAN: 73 year old man with hx of CAD s/p CABG and PCI,
   severe ischemic cardiomyopathy with EF ~20%, scar mediated VT s/p biV
   ICD implanation, CKD, and afib admitted with pancreatitis, course c/b
   VT arrest and prolonged stays in VT while in the unit.
   .
   # s/p VT arrest: Continues have runs of VT, no shocks delivered
   overnight. Patient sustained in 130s last night with WCT. He was
   holding his pressures but lightheaded and diaphoretic. Rebolused
   Amiodarone and then started drip. Also blolused with lidocaine.
   Currently about 5.3g loaded.
   -continue to keep Mag>2.0, K>4.5
   -continue Amiodarone 400mg PO TID
   -continueMexiletine 150 mg PO Q8H
   - TSH wnl
   - will discuss further with EP service
   # s/p intubation: extubated with some residual upper airway breath
   sounds
   -continued to monitor CXR
   -continue ipratropium and albuterol nebs
   .
   # CAD: - current chest pain is focal and likely related to CPR and
   shocks.
   - continue aspirin/statin.  Holding beta blocker as above.
   - cautious use of SLN if CP recurs given severe AS
   - Continue to monitor on telemetry
   - continued dilaudid 1-2mg IV q3prn
   .
   # Abdominal pain/Diarrhea: Had resolved prior to transfer to CCU.
   History appears similar to prior episode in [**1-20**].  Symptoms and labs
   felt to be c/w pancreatitis.  No cholethiasis apprecaited on abdominal
   u/s.  C. diff negative x1.
   - OG tube in place
   - Continue PPI, sucralfate, antiemetics per home regimen
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during today's code showed
   worsened LV function.
   - continue aspirin/statin.
   - Consider diuresis today if poor UOP though this may be post-arrest
   ATN.
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code
   -          continue to follow
   -          avoid nephrotoxins
   -          renally dose meds
   -          Check urine lytes
   -
   #Thrombocytopenia: Repeat in pm
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhsprn
   .
   # FEN: NPO, OG tube in place
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: full confirmed with patient by [**Hospital Unit Name 4282**] team.  Will rediscuss with
   patient once able.   Patient is not interested in catheterization,
   valvuloplasty, or ablation procedures according to discussion with his
   [**Hospital Unit Name 4282**] team and attg Dr. [**First Name (STitle) **].
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-14**] 06:00 PM
   Arterial Line - [**2141-3-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-18 05:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2141-3-17**]
   Slow VT HR 120s-130 around 4pm. Dropped SBP 130s to 90s. Lightheaded.
   Paced out of it by EP. Given Lidocaine 100 IV. They lowered threshold
   to 125. Now just RV pacing. No longer BiV pacing.
   Had 2 episodes of VT again 3 am - rate 130s lasted 3min without
   attempted ATP by ICD, was then shocked by ICD X 2 - lidocaine gtt
   restarted
 ARTERIAL LINE - STOP [**2141-3-17**] 09:41 AM
 EKG - At [**2141-3-18**] 03:16 AM
   s/p 2 VT /ICD shock events within 1/2 hour EKG obtained- remains AV
   paced 100%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-17**] 07:59 AM
   Furosemide (Lasix) - [**2141-3-17**] 11:11 PM
   Hydromorphone (Dilaudid) - [**2141-3-17**] 11:20 PM
   Lorazepam (Ativan) - [**2141-3-18**] 02:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-18**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 67 (66 - 160) bpm
   BP: 101/55(66) {88/29(59) - 138/87(91)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  2,009 mL
                                                                    173 mL
   PO:
                                                                  1,320 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    689 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    480 mL
   Urine:
                                                                  1,725 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    284 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Gen: Anxious appearing, laying in bed
   HEENT:
   CV: RRR .
   Resp: Bibasilar rales with scant exp wheezes
   Abd: Soft. NTND
   Ext: No c/c. Trace edema
   Labs / Radiology
   134 K/uL
   10.6 g/dL
   143 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.3 mEq/L
   40 mg/dL
   101 mEq/L
   134 mEq/L
   32.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2141-3-14**]  07:37 PM
                             [**2141-3-15**]  04:12 AM
                             [**2141-3-15**]  04:31 AM
                             [**2141-3-15**]  08:22 AM
                             [**2141-3-15**]  12:37 PM
                             [**2141-3-15**]  11:04 PM
                             [**2141-3-16**]  04:22 AM
                             [**2141-3-16**]  05:39 PM
                             [**2141-3-17**]  04:45 AM
                             [**2141-3-18**]  02:37 AM
   WBC
   13.2
   13.0
   15.6
   11.2
   11.6
   Hct
   34.0
   32.9
   35.9
   30.3
   32.1
   Plt
   129
   114
   107
   150
   111
   134
   Cr
   2.1
   2.2
   1.7
   2.0
   1.6
   2.0
   TropT
   0.10
   0.11
   TCO2
   27
   23
   26
   Glucose
   135
   113
   111
   143
   Other labs: PT / PTT / INR:15.3/30.1/1.4, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 73 year old man with hx of CAD s/p CABG and PCI,
   severe ischemic cardiomyopathy with EF ~20%, scar mediated VT s/p biV
   ICD implanation, CKD, and afib admitted with pancreatitis, course c/b
   VT arrest and recurrent sustained VT requiring defibrillation
   .
   # s/p VT arrest: Continues have runs of VT, received 2 shocks last
   evening for recurrent VT at 120ms. BP stable but pt with symptoms of
   lightheadedness and diaphoreses. Lidocaine gtt restarted. Currently
   about 6.5g loaded of amiodarone. Yesterday BiV pacing turned off for
   concern of pro-arrhythmia potential and ATP threshold was lowered to
   125.
   - continue to keep Mag>2.0, K>4.5
   - continue Amiodarone 400mg PO TID
   - continue lidocaine gtt
   - appreciate EP recs, consider VT ablation given refractory arrhythmia
   and frequent ICD firing
   # s/p intubation: extubated with some residual upper airway breath
   sounds
   -continued to monitor CXR
   -continue ipratropium and albuterol nebs
   - restart lasix with goal 500cc-1L negative
   .
   # CAD: - current chest pain is focal and likely related to CPR and
   shocks.
   - continue aspirin/statin.  Holding beta blocker as above.
   - cautious use of SLN if CP recurs given severe AS
   - Continue to monitor on telemetry
   - continued dilaudid 1-2mg IV q3prn
   .
   # Abdominal pain/Diarrhea: Had resolved prior to transfer to CCU.
   History appears similar to prior episode in [**1-20**].  Symptoms and labs
   felt to be c/w pancreatitis.  No cholethiasis apprecaited on abdominal
   u/s.  C. diff negative x1.
   - Continue PPI, sucralfate, antiemetics per home regimen
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during today's code showed
   worsened LV function.
   - continue aspirin/statin.
   - Continue lasix with goal 1L negative
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: full confirmed with patient by [**Hospital Unit Name 4282**] team.  Patient is not
   interested in catheterization, valvuloplasty, or ablation procedures
   according to discussion with his [**Hospital Unit Name 4282**] team and attg Dr. [**First Name (STitle) **].
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-17**] 08:48 PM
   22 Gauge - [**2141-3-18**] 03:21 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Recurrent vt requiring shock; will continue amio load to 10 grams.
   However, must also consider other options including coronary
   intervention or catheter-mediated vt ablation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-3-18**]
   10:51 ------

2141-03-19 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on lasix gtt for diuresis.
   - Lidocaine gtt rate dropped to 1mg/min, but had episode of VT,
   successfully shocked x1, at 8pm. Given 100mg lidocaine bolus and gtt
   increased to 2mg/min.
   - Second episode of VT(rate of 150s) at 12am, successfully shocked x1.
   Given lorazepam for sedation.
   - Poor peripheral IV access.
   S: C/o chest wall pain. Mildly SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-3-18**] 07:30 AM
   Pantoprazole (Protonix) - [**2141-3-18**] 08:14 AM
   Furosemide (Lasix) - [**2141-3-18**] 10:45 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-18**] 04:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-19**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 80 (67 - 158) bpm
   BP: 99/67(75) {88/28(45) - 137/87(98)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  1,812 mL
                                                                    385 mL
   PO:
                                                                  1,040 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    772 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                    870 mL
   Urine:
                                                                  3,950 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,138 mL
                                                                   -485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   Gen: Anxious appearing, laying in bed in NAD, diaphoretic
   CV: RRR no m/r/g.
   Resp: Coarse BS with exp wheezes and exp prolongation
   Abd: NABS Soft. NTND
   Ext: No c/c. Trace edema. WWP.
   Labs / Radiology
   143 K/uL
   10.8 g/dL
   124 mg/dL
   1.9 mg/dL
   33 mEq/L
    3.7
   37 mg/dL
   94 mEq/L
   139 mEq/L
   31.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2141-3-15**]  04:31 AM
                             [**2141-3-15**]  08:22 AM
                             [**2141-3-15**]  12:37 PM
                             [**2141-3-15**]  11:04 PM
                             [**2141-3-16**]  04:22 AM
                             [**2141-3-16**]  05:39 PM
                             [**2141-3-17**]  04:45 AM
                             [**2141-3-18**]  02:37 AM
                             [**2141-3-18**]  04:00 PM
                             [**2141-3-19**]  04:27 AM
   WBC
   13.0
   15.6
   11.2
   11.6
   9.5
   9.8
   Hct
   32.9
   35.9
   30.3
   32.1
   30.1
   31.9
   Plt
   114
   107
   150
   111
   134
   121
   143
   Cr
   2.2
   1.7
   2.0
   1.6
   2.0
   2.0
   1.9
   TropT
   0.11
   TCO2
   23
   26
   Glucose
   113
   111
   143
   138
   124
   Other labs: PT / PTT / INR:16.0/29.8/1.4, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8, PO4:3.0 mg/dL
   Assessment and Plan
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implanation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.  Remains on amio and
   lidocaine gtt with persistent VT.
   .
   # s/p VT arrest: Continues have runs of VT.  Threshold was lowered this
   admission to detect VT at rate of 120-130s.  2 shocks delivered
   overnight.  Both episodes with BP stable but pt with symptoms of
   lightheadedness and diaphoreses.  On lidocaine gtt, PO amiodarone.
   - continue to keep Mag>2.0, K>4.5
   - Consider change to IV amiodarone given persistent VT and concern for
   poor absorption.
   - continue Lidocaine gtt for now.
   - appreciate EP recs.  Continue to follow with them.
   - Plan for cardiac catheterization on Monday
 both left and right
   heart cath.  Likely VT ablation on Tuesday.
   - Pt with element of PTSD due to persistent shocks.  Treat anxiety with
   ativan PRN.
   # s/p intubation: extubated with some residual upper airway breath
   sounds
   -continue ipratropium and albuterol nebs
   - continue with diuresis.  Put out well yesterday.
   .
   # CAD: - current chest pain is focal and likely related to CPR and
   shocks.
   - continue aspirin/statin.  Holding beta blocker as above.
   - cautious use of SLN if CP recurs given severe AS
   - Continue to monitor on telemetry
   - continued dilaudid 1-2mg IV q3prn
   .
   # Abdominal pain/Diarrhea: Had resolved prior to transfer to CCU.
   History appears similar to prior episode in [**1-20**].  Symptoms and labs
   felt to be c/w pancreatitis.  No cholethiasis apprecaited on abdominal
   u/s.  C. diff negative x1.
   - Continue PPI, sucralfate, antiemetics per home regimen
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function.
   - continue aspirin/statin.
   - Continue diuresis if poor UOP though this may be post-arrest ATN
   UOP 45cc/hr currently
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: full confirmed with patient by [**Hospital Unit Name 4282**] team.  After discussion,
   patient now willing to go forward with catheterization and ablation.
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-18**] 10:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Ongoing ventricular tachycardia; we are planning on performing cor
   angio tomorrow with hope of improving perfusion of peri-infarct zone
   (prior extensive inferior posterior infarct, which is likely the
   substrate of the tachycardia); my rationale is that peri-infarct
   ischemia may be the trigger for the tachycardia.  Would avoid excessive
   volume unloading prior to cath.  Pt should remain moderately sedated
   due to shocks.  We should have a low threshold for intubation.
   Then Tuesday possible catheter ablation of ventricular tachycardia
   (depends on cor angio result).
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-3-19**]
   11:31 ------

2141-03-20 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -NPO for cath in am
   -trying to control heart rate with ativan and dilaudid
   -on lasix gtt to keep even
   -put on amiodarone gtt 0.5mg/min
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-3-19**] 09:08 AM
   Heparin Sodium (Prophylaxis) - [**2141-3-19**] 04:00 PM
   Lorazepam (Ativan) - [**2141-3-19**] 07:01 PM
   Hydromorphone (Dilaudid) - [**2141-3-20**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-20**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.6
   HR: 111 (61 - 111) bpm
   BP: 110/73(90) {88/26(40) - 124/82(90)} mmHg
   RR: 18 (8 - 22) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  2,539 mL
                                                                    284 mL
   PO:
                                                                  1,360 mL
             TF:
   IVF:
                                                                  1,179 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  2,802 mL
                                                                  1,080 mL
   Urine:
                                                                  2,802 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   11.6 g/dL
   124 mg/dL
   1.9 mg/dL
   33 mEq/L
   4.0 mEq/L
   37 mg/dL
   94 mEq/L
   139 mEq/L
   34.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2141-3-15**]  08:22 AM
                             [**2141-3-15**]  12:37 PM
                             [**2141-3-15**]  11:04 PM
                             [**2141-3-16**]  04:22 AM
                             [**2141-3-16**]  05:39 PM
                             [**2141-3-17**]  04:45 AM
                             [**2141-3-18**]  02:37 AM
                             [**2141-3-18**]  04:00 PM
                             [**2141-3-19**]  04:27 AM
                             [**2141-3-20**]  05:15 AM
   WBC
   13.0
   15.6
   11.2
   11.6
   9.5
   9.8
   11.6
   Hct
   32.9
   35.9
   30.3
   32.1
   30.1
   31.9
   34.9
   Plt
   114
   107
   150
   111
   134
   121
   143
   183
   Cr
   2.2
   1.7
   2.0
   1.6
   2.0
   2.0
   1.9
   TropT
   0.11
   TCO2
   26
   Glucose
   113
   111
   143
   138
   124
   Other labs: PT / PTT / INR:16.0/29.8/1.4, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implanation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.  Remains on amio and
   lidocaine gtt with persistent VT.
   .
   # s/p VT arrest: Continues have runs of VT.  Threshold was lowered this
   admission to detect VT at rate of 120-130s.  2 shocks delivered
   overnight.  Both episodes with BP stable but pt with symptoms of
   lightheadedness and diaphoreses.  On lidocaine gtt, PO amiodarone.
   - continue to keep Mag>2.0, K>4.5
   - Consider change to IV amiodarone given persistent VT and concern for
   poor absorption.
   - continue Lidocaine gtt for now.
   - appreciate EP recs.  Continue to follow with them.
   - Plan for cardiac catheterization on Monday
 both left and right
   heart cath.  Likely VT ablation on Tuesday.
   - Pt with element of PTSD due to persistent shocks.  Treat anxiety with
   ativan PRN.
   # s/p intubation: extubated with some residual upper airway breath
   sounds
   -continue ipratropium and albuterol nebs
   - continue with diuresis.  Put out well yesterday.
   .
   # CAD: - current chest pain is focal and likely related to CPR and
   shocks.
   - continue aspirin/statin.  Holding beta blocker as above.
   - cautious use of SLN if CP recurs given severe AS
   - Continue to monitor on telemetry
   - continued dilaudid 1-2mg IV q3prn
   .
   # Abdominal pain/Diarrhea: Had resolved prior to transfer to CCU.
   History appears similar to prior episode in [**1-20**].  Symptoms and labs
   felt to be c/w pancreatitis.  No cholethiasis apprecaited on abdominal
   u/s.  C. diff negative x1.
   - Continue PPI, sucralfate, antiemetics per home regimen
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function.
   - continue aspirin/statin.
   - Continue diuresis if poor UOP though this may be post-arrest ATN
   UOP 45cc/hr currently
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: full confirmed with patient by [**Hospital Unit Name 4282**] team.  After discussion,
   patient now willing to go forward with catheterization and ablation.
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-3-18**] 10:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-21 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2141-3-20**] 02:00 PM
   Dx cath
 BLOOD CULTURED - At [**2141-3-20**] 11:00 PM
 URINE CULTURE - At [**2141-3-20**] 11:00 PM
 INVASIVE VENTILATION - START [**2141-3-21**] 02:30 AM
 SPUTUM CULTURE - At [**2141-3-21**] 03:03 AM
 BLOOD CULTURED - At [**2141-3-21**] 04:00 AM
   Intubated overnight due to somnolence, concern for airway protection
   with increased ativan, dilaudid doses for recurrent shocks
   VT x 6 episodes (approx 1 per hour) with HR 200s-230s. Straight to ICD
   firing; no attempts at pacing
   Plasn for EP study in am
   s/p cath with no onstructive disease to suggest etiology of VT
   Cultured for T 100.7 (urine, sputum, blood)
   Difficulty seeing PICC tip on CXR so ordered IR guided PICC to place
   under fluoro
   BP slightly lower MAPs around 60 in am after intubation while on
   propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Furosemide (Lasix) - 10 mg/hour
   Amiodarone - 0.5 mg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-3-20**] 10:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-3-21**] 01:00 AM
   Lorazepam (Ativan) - [**2141-3-21**] 01:30 AM
   Midazolam (Versed) - [**2141-3-21**] 04:30 AM
   Fentanyl - [**2141-3-21**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-21**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 60 (60 - 268) bpm
   BP: 85/61(67) {83/52(60) - 141/95(96)} mmHg
   RR: 12 (7 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 71 Inch
             Total In:
                                                                  1,621 mL
                                                                    517 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,261 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    690 mL
   Urine:
                                                                  1,905 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -284 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/47/156/36/10
   Ve: 18 L/min
   PaO2 / FiO2: 312
   Physical Examination
   Gen: intubated, sedated, but awake, shaking head to questions,
   following commands
   HEENT: ETT in place
   CV: Tachy. Reg. No m/r/g
   Resp: Coarse BS BL
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: 1+ edema BL. R groin dsg CDI
   Labs / Radiology
   170 K/uL
   10.1 g/dL
   147 mg/dL
   2.0 mg/dL
   36 mEq/L
   3.9 mEq/L
   39 mg/dL
   97 mEq/L
   140 mEq/L
   29.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2141-3-16**]  04:22 AM
                             [**2141-3-16**]  05:39 PM
                             [**2141-3-17**]  04:45 AM
                             [**2141-3-18**]  02:37 AM
                             [**2141-3-18**]  04:00 PM
                             [**2141-3-19**]  04:27 AM
                             [**2141-3-20**]  05:15 AM
                             [**2141-3-20**]  11:27 PM
                             [**2141-3-21**]  03:24 AM
                             [**2141-3-21**]  03:40 AM
   WBC
   13.0
   15.6
   11.2
   11.6
   9.5
   9.8
   11.6
   10.5
   Hct
   32.9
   35.9
   30.3
   32.1
   30.1
   31.9
   34.9
   31.3
   29.1
   Plt
   107
   150
   111
   134
   121
   143
   183
   175
   170
   Cr
   1.7
   2.0
   1.6
   2.0
   2.0
   1.9
   1.9
   2.0
   TCO2
   36
   Glucose
   113
   111
   143
   138
   124
   148
   147
   Other labs: PT / PTT / INR:15.9/28.3/1.4, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.  Remains on amio and
   lidocaine gtt with persistent VT overnight.
   .
   # s/p VT arrest: Continues to have runs of VT.  Had VT overnight with
   shocks x 7. Rate of VT increased from prior, 230s. Both episodes with
   slight decrease in VT but shocked quickly . On lidocaine gtt and
   Amiodarone gtt. Received lido bolus 50mg x 1 overnight for recurrent
   VT. Due to excesss sedation for anxiety related to shocks and need for
   intubation this am for EP study, pt was electively intubated overnight
   for airway protection. There was concern that he was somnolent and
   gurgling respiratory secretions. Had cath yesterday with no obvious
   ischemic cause to suggest etiology of VT that could be intervened upon.
   - continue to keep Mag>2.0, K>4.5
   - Holding Lido and amio for EP study this am (has also completed amio
   load)
   - f/u EP recs after procedure regarding meds, ICD settings
   - VT ablation today with EP study.
   - Pt with element of PTSD due to persistent shocks.  Treat anxiety with
   ativan PRN, sedation as needed while intubated.
   # s/p intubation: Intubated for airway protection in setting of high
   dose sedatives required for anri-anxiety
   -          Extubate when stable, possibly after EP study, VT ablation
   -          Maintain on minimal vent settings with daily SBT
   .
   # CAD: Current chest pain is focal with chest wall tenderness and
   ecchymosesand likely related to CPR and shocks.
   - continue aspirin/statin.
   - cautious use of SLN if CP recurs given severe AS
   - continued fentanyl/versed prn
   .
   # Constipation: Pt has not been on bowel regimen due to initial
   presentation with abdominal pain and diarrhea. Now has been on
   narcotics with no BM in several days to a week. Abdomen distended on
   exam.
   -          Continue PPI, sucralfate, antiemetics per home regimen
   -          Added bowel regimen (colace, senna, bisacodyl); titrate as
   needed to BM
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - Had been on lasix gtt but will hold today due to lower BPs since
   intubation and increased sedation
   .
   # Fever: Pt had low grade fever [**2141-3-20**] 100.7. Thick brown sputum
   suctioned from ETT. Sputum cx with 2+ GPC. Blood and urine cx NGTD
   -          Follow up cx data
   -          consider start vanc/zosyn if spikes for HAP if looks
   infected with elevated WBC or persistent fevers
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code. Stable at Cr 1.9-2.
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele. Has
   been intubated and sedated now.
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   - continue fentanyl/versed prn
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: Full code for procedure today.
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-3-19**] 09:01 PM
   PICC Line - [**2141-3-20**] 11:20 AM
   20 Gauge - [**2141-3-21**] 04:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-22 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2141-3-21**] 11:00 AM. Pt taken to  EP on propofol.
   Lasixs and anti-arrythmics off.
 ARTERIAL LINE - START [**2141-3-21**] 03:00 PM
 ARTERIAL LINE - STOP [**2141-3-21**] 06:51 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2141-3-22**] 01:40 AM
   200j x1- to AV paced at 70bpm
 BLOOD CULTURED - At [**2141-3-22**] 02:15 AM
   [**2141-3-21**]
   - EP: Ablated 1 circuit, interrupted an epicardial circuit. Recs to
   keep sedated, wean phenylephrine, keep on amio/lido gtts and transition
   to mexilitene tomorrow.
   - Had VTach to 140s, ICD did not pick up (set to detect VTach over
   180). Resolved with external defibrillation x1, given 100mg lidocaine
   bolus, ICD set to detect VTach over 130.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 1 mg/min
   Amiodarone - 0.5 mg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-3-21**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2141-3-22**] 12:35 AM
   Midazolam (Versed) - [**2141-3-22**] 01:18 AM
   Fentanyl - [**2141-3-22**] 01:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-22**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 70 (51 - 145) bpm
   BP: 119/78(89) {78/45(55) - 152/85(100)} mmHg
   RR: 18 (0 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  4,456 mL
                                                                    720 mL
   PO:
             TF:
   IVF:
                                                                  3,976 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  3,822 mL
                                                                    480 mL
   Urine:
                                                                  3,642 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    634 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.50/40/181/29/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Gen: intubated, sedated, but awake, shaking head to questions,
   following commands
   HEENT: ETT in place
   CV: Tachy. Reg. No m/r/g
   Resp: Coarse BS BL
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: 1+ edema BL. R groin dsg CDI
   Labs / Radiology
   292 K/uL
   10.4 g/dL
   130 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   35 mg/dL
   102 mEq/L
   142 mEq/L
   31.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2141-3-18**]  04:00 PM
                             [**2141-3-19**]  04:27 AM
                             [**2141-3-20**]  05:15 AM
                             [**2141-3-20**]  11:27 PM
                             [**2141-3-21**]  03:24 AM
                             [**2141-3-21**]  03:40 AM
                             [**2141-3-21**]  01:37 PM
                             [**2141-3-21**]  01:55 PM
                             [**2141-3-21**]  05:30 PM
                             [**2141-3-22**]  02:08 AM
   WBC
   9.5
   9.8
   11.6
   10.5
   14.2
   Hct
   30.1
   31.9
   34.9
   31.3
   29.1
   23
   30
   31.7
   Plt
   121
   143
   183
   175
   170
   292
   Cr
   2.0
   1.9
   1.9
   2.0
   1.7
   TCO2
   36
   32
   Glucose
   138
   124
   148
   147
   110
   148
   130
   Other labs: PT / PTT / INR:16.5/29.6/1.5, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.  Remains on amio and
   lidocaine gtt with persistent VT overnight.
   .
   # s/p VT arrest: Continues to have runs of VT.  Had VT overnight with
   shocks x 7. Rate of VT increased from prior, 230s. Both episodes with
   slight decrease in VT but shocked quickly . On lidocaine gtt and
   Amiodarone gtt. Received lido bolus 50mg x 1 overnight for recurrent
   VT. Due to excesss sedation for anxiety related to shocks and need for
   intubation this am for EP study, pt was electively intubated overnight
   for airway protection. There was concern that he was somnolent and
   gurgling respiratory secretions. Had cath yesterday with no obvious
   ischemic cause to suggest etiology of VT that could be intervened upon.
   - continue to keep Mag>2.0, K>4.5
   - Holding Lido and amio for EP study this am (has also completed amio
   load)
   - f/u EP recs after procedure regarding meds, ICD settings
   - VT ablation today with EP study.
   - Pt with element of PTSD due to persistent shocks.  Treat anxiety with
   ativan PRN, sedation as needed while intubated.
   # s/p intubation: Intubated for airway protection in setting of high
   dose sedatives required for anri-anxiety
   -          Extubate when stable, possibly after EP study, VT ablation
   -          Maintain on minimal vent settings with daily SBT
   .
   # CAD: Current chest pain is focal with chest wall tenderness and
   ecchymosesand likely related to CPR and shocks.
   - continue aspirin/statin.
   - cautious use of SLN if CP recurs given severe AS
   - continued fentanyl/versed prn
   .
   # Constipation: Pt has not been on bowel regimen due to initial
   presentation with abdominal pain and diarrhea. Now has been on
   narcotics with no BM in several days to a week. Abdomen distended on
   exam.
   -          Continue PPI, sucralfate, antiemetics per home regimen
   -          Added bowel regimen (colace, senna, bisacodyl); titrate as
   needed to BM
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - Had been on lasix gtt but will hold today due to lower BPs since
   intubation and increased sedation
   .
   # Fever: Pt had low grade fever [**2141-3-20**] 100.7. Thick brown sputum
   suctioned from ETT. Sputum cx with 2+ GPC. Blood and urine cx NGTD
   -          Follow up cx data
   -          consider start vanc/zosyn if spikes for HAP if looks
   infected with elevated WBC or persistent fevers
   .
   #. Acute on chronic renal failure: Likley [**2-13**] ATN, hypoperfusion during
   code. Stable at Cr 1.9-2.
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele. Has
   been intubated and sedated now.
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   - continue fentanyl/versed prn
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: Full code for procedure today.
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-3-19**] 09:01 PM
   PICC Line - [**2141-3-20**] 11:20 AM
   20 Gauge - [**2141-3-21**] 04:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-23 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-3-22**] 10:30 AM
 SPUTUM CULTURE - At [**2141-3-22**] 11:00 AM
 FEVER - 102.0
F - [**2141-3-22**] 08:00 AM
   Per EP, stopped amio, lido, mexilitene since VT morphology triggered
   and different from previous VT, ? from proarrhythmic effects of meds.
   - Started spironolactone [**First Name8 (NamePattern2) **] [**Doctor Last Name **] to maintain elevated K
   -started on vasopressin to wean off neo
   -febrile to 102
   -started Vanc/Zosyn for VAP
   -6 episodes of Vtach but paced out, no shocks
   -spiking temps to 102
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-22**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-3-23**] 12:37 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-23**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-23**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.8
C (100.1
   HR: 101 (80 - 101) bpm
   BP: 82/57(62) {82/44(57) - 125/80(90)} mmHg
   RR: 18 (16 - 21) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 71 Inch
             Total In:
                                                                  2,965 mL
                                                                    559 mL
   PO:
             TF:
   IVF:
                                                                  2,225 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                  1,422 mL
                                                                    580 mL
   Urine:
                                                                  1,362 mL
                                                                    580 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  1,543 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/41/116/29/6
   Ve: 8.4 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: intubated, sedated, but awake, shaking head to questions,
   following commands
   HEENT: ETT in place
   CV: Tachy. Reg. systolic Murmur
   Resp: Coarse BS BL
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: Trace edema BL.
   Labs / Radiology
   207 K/uL
   10.2 g/dL
   212 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.3 mEq/L
   26 mg/dL
   103 mEq/L
   141 mEq/L
   31.9 %
   15.2 K/uL
        [image002.jpg]
                             [**2141-3-20**]  11:27 PM
                             [**2141-3-21**]  03:24 AM
                             [**2141-3-21**]  03:40 AM
                             [**2141-3-21**]  01:37 PM
                             [**2141-3-21**]  01:55 PM
                             [**2141-3-21**]  05:30 PM
                             [**2141-3-22**]  02:08 AM
                             [**2141-3-22**]  04:30 PM
                             [**2141-3-22**]  08:15 PM
                             [**2141-3-23**]  05:37 AM
   WBC
   10.5
   14.2
   14.5
   15.2
   Hct
   31.3
   29.1
   23
   30
   31.7
   33.0
   31.9
   Plt
   175
   170
   292
   270
   207
   Cr
   2.0
   1.7
   1.4
   TCO2
   36
   32
   31
   Glucose
   147
   110
   148
   130
   212
   Other labs: PT / PTT / INR:14.5/25.3/1.3, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.  Remains on amio and
   lidocaine gtt with persistent VT overnight.
   .
   # VT, s/p VT arrest: EP study 2 days prior with ablation of 2 circuits.
   Stopped AMio, lido gtt and mexilitene because of concern that these
   were arryhthmogenic. Had VT x 6 episodes which he paced himself out of.
   Spironolactone started to maintain K>4.5.
   - F/U EP recs
   - continue to keep Mag>2.0, K>4.5
   - started mexilitine PO while holding amio and lido
   .
   # Fever.  Probably PNA given thick sputum from ETT. Sputum cx pending
   with gram stain showing GPCs in prs and clusters. Still spiking fevers
   on Vanc/Zosyn. Other possible etiologies of infection include line
   infection.
   -          Vanc/Zosyn for VAP empirically
   -          Blood, sputum, and urine cultures
   -          DC PICC if still spiking later today and may need central
   access for pressors if still requiring
   .
   #. Hypotension: Likely from sedation since started periintubation and
   has persisted while sedated. Other possible etiologies include
   cardiogenic shock (less likely since warm, well perfused) or sepsis
   given fevers.
   -          wean neo as tolerated
   -          continue vasopressin for now
   -          wean sedation as tolerated
   -          treat infection as above
   .
   # s/p intubation: Intubated for airway protection in setting of high
   dose sedatives required for anti-anxiety
   -          Extubate when stable, hemodynamics improved
   -          Maintain on minimal vent settings with daily SBT
   .
   # CAD:
   - continue aspirin/statin.
   - cautious use of SLN if CP recurs given severe AS
   - continued fentanyl/versed prn, weaning propofol
   .
   # Constipation: Pt has not been on bowel regimen due to initial
   presentation with abdominal pain and diarrhea. Now has been on
   narcotics with no BM in several days to a week. Abdomen distended on
   exam.
   -          Continue PPI, reglan
   -          Added bowel regimen (colace, senna, bisacodyl); titrate as
   needed to BM
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - Had been on lasix gtt but will hold due to lower BPs since intubation
   and increased sedation; also worsens hypokalemia and trying to maintain
   K>4.5
   .
   #. Acute on chronic renal failure: Likely [**2-13**] ATN, hypoperfusion during
   code. Steadily improving.
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele.
   Intubated and sedated now.
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   - continue fentanyl/versed prn
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: No CPR; allowed 1 shock. Extubate as possible
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-3-19**] 09:01 PM
   PICC Line - [**2141-3-20**] 11:20 AM
   20 Gauge - [**2141-3-21**] 04:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-24 05:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2141-3-23**] 12:00 PM
   from picc line blue port
 BLOOD CULTURED - At [**2141-3-23**] 03:00 PM
   venipuncture right forearm
   Fever curve trending down since am
   Sputum x 2 with coag positive staph; sensitivities pending
   Unable to wean neo overnight
   Attempting to wean sedation for possible extubation, SBT but still on
   neo and dopa
   Started mexilitene; ideally would add beta blocker (metoprolol) but
   would wait until off pressors
   Avoid amio
   Reglan added; TFs were going to be started but were not since would
   need to be held for possible extubation
   CXR [**2141-3-23**]: IMPRESSION: No acute intrathoracic pathology including no
   pneumonia.
   S: Acknowledges abd pain. No chest pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-3-23**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2141-3-23**] 11:25 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-23**] 11:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-24**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 90 (80 - 101) bpm
   BP: 104/67(76) {76/52(58) - 130/102(107)} mmHg
   RR: 22 (5 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Height: 71 Inch
             Total In:
                                                                  2,278 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  1,648 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,534 mL
                                                                    390 mL
   Urine:
                                                                  1,334 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    744 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 16 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 99%
   ABG: ///29/
   Ve: 10.3 L/min
   Physical Examination
   Gen: intubated, sedated, but awake, shaking head to questions,
   following commands
   HEENT: ETT in place
   CV: Tachy. Reg. systolic Murmur. Prominent precordial heave.
   Resp: CTAB
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: Trace edema BL UE and LE.
   Labs / Radiology
   203 K/uL
   9.5   g/dL
   103 mg/dL
   1.2 mg/dL
   28 mEq/L
    4.0 mEq/L
   24 mg/dL
   105 mEq/L
   142 mEq/L
   29.1 %
   15.8 K/uL
        [image002.jpg]
                             [**2141-3-20**]  11:27 PM
                             [**2141-3-21**]  03:24 AM
                             [**2141-3-21**]  03:40 AM
                             [**2141-3-21**]  01:37 PM
                             [**2141-3-21**]  01:55 PM
                             [**2141-3-21**]  05:30 PM
                             [**2141-3-22**]  02:08 AM
                             [**2141-3-22**]  04:30 PM
                             [**2141-3-22**]  08:15 PM
                             [**2141-3-23**]  05:37 AM
   WBC
   10.5
   14.2
   14.5
   15.2
   Hct
   31.3
   29.1
   23
   30
   31.7
   33.0
   31.9
   Plt
   175
   170
   292
   270
   207
   Cr
   2.0
   1.7
   1.4
   TCO2
   36
   32
   31
   Glucose
   147
   110
   148
   130
   212
   Other labs: PT / PTT / INR:14.5/25.3/1.3, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.  Remains on amio and
   lidocaine gtt with persistent VT overnight.
   .
   # VT, s/p VT arrest: EP study 2 days prior with ablation of 2 circuits.
   Stopped AMio, lido gtt and mexilitene because of concern that these
   were arryhthmogenic. Had VT x 6 episodes which he paced himself out of.
   Spironolactone started to maintain K>4.5.
   - F/U EP recs
   - continue to keep Mag>2.0, K>4.5
   - started mexilitine PO while holding amio and lido
   .
   # Fever.  Probably PNA given thick sputum from ETT. Sputum cx pending
   with gram stain showing GPCs in prs and clusters. Still spiking fevers
   on Vanc/Zosyn. Other possible etiologies of infection include line
   infection.
   -          Vanc/Zosyn for VAP empirically
   -          Blood, sputum, and urine cultures
   -          DC PICC if still spiking later today and may need central
   access for pressors if still requiring
   .
   #. Hypotension: Likely from sedation since started periintubation and
   has persisted while sedated. Other possible etiologies include
   cardiogenic shock (less likely since warm, well perfused) or sepsis
   given fevers.
   -          wean neo as tolerated
   -          continue vasopressin for now
   -          wean sedation as tolerated
   -          treat infection as above
   .
   # s/p intubation: Intubated for airway protection in setting of high
   dose sedatives required for anti-anxiety
   -          Extubate when stable, hemodynamics improved
   -          Maintain on minimal vent settings with daily SBT
   .
   # CAD:
   - continue aspirin/statin.
   - cautious use of SLN if CP recurs given severe AS
   - continued fentanyl/versed prn, weaning propofol
   .
   # Constipation: Pt has not been on bowel regimen due to initial
   presentation with abdominal pain and diarrhea. Now has been on
   narcotics with no BM in several days to a week. Abdomen distended on
   exam.
   -          Continue PPI, reglan
   -          Added bowel regimen (colace, senna, bisacodyl); titrate as
   needed to BM
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - Had been on lasix gtt but will hold due to lower BPs since intubation
   and increased sedation; also worsens hypokalemia and trying to maintain
   K>4.5
   .
   #. Acute on chronic renal failure: Likely [**2-13**] ATN, hypoperfusion during
   code. Steadily improving.
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   #Thrombocytopenia: continue to follow
   .
   # Anxiety: lots of anxiety related to shocks and alarming tele.
   Intubated and sedated now.
   -continue clonopin 1mg TID PRN
   -continue ativan 1mg qhs
   - continue fentanyl/versed prn
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen, PPI
   .
   # CODE: No CPR; allowed 1 shock. Extubate as possible
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-20**] 11:20 AM
   20 Gauge - [**2141-3-21**] 04:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-25 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pip-tazo narrowed to ceftx for E coli UTI.
   - EP recs unchanged.
   - Weaned off of pressors (vasopressin and phenylephrine).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-3-24**] 08:00 AM
   Vancomycin - [**2141-3-24**] 10:00 AM
   Ceftriaxone - [**2141-3-24**] 02:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-24**] 04:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-25**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 98 (80 - 103) bpm
   BP: 97/62(71) {70/46(57) - 113/72(84)} mmHg
   RR: 17 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 71 Inch
             Total In:
                                                                  1,632 mL
                                                                    440 mL
   PO:
                                                                    240 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,092 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    300 mL
   Urine:
                                                                  1,105 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     27 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 534 (0 - 534) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/46/171/27/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Gen: intubated, sedated, but awake, shaking head to questions,
   following commands
   HEENT: ETT in place
   CV: Tachy. Reg. systolic Murmur. Prominent precordial heave.
   Resp: CTAB
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: Trace edema BL UE and LE.
   Labs / Radiology
   160 K/uL
   9.3 g/dL
   78 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   22 mg/dL
   104 mEq/L
   139 mEq/L
   27.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2141-3-21**]  01:37 PM
                             [**2141-3-21**]  01:55 PM
                             [**2141-3-21**]  05:30 PM
                             [**2141-3-22**]  02:08 AM
                             [**2141-3-22**]  04:30 PM
                             [**2141-3-22**]  08:15 PM
                             [**2141-3-23**]  05:37 AM
                             [**2141-3-24**]  05:55 AM
                             [**2141-3-24**]  02:13 PM
                             [**2141-3-25**]  04:51 AM
   WBC
   14.2
   14.5
   15.2
   15.8
   9.1
   Hct
   23
   30
   31.7
   33.0
   31.9
   29.1
   27.5
   Plt
   292
   270
   207
   203
   160
   Cr
   1.7
   1.4
   1.2
   1.1
   TCO2
   32
   31
   30
   Glucose
   110
   148
   130
   212
   103
   78
   Other labs: PT / PTT / INR:15.2/25.6/1.3, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis, course c/b VT arrest and
   recurrent sustained VT requiring defibrillation.
   .
   # VT, s/p VT arrest: On mexilitine, off amiodarone. No VT overnight.
   - F/U EP recs
   - continue to keep Mag>2.0, K>4.5
   - cont mexilitine PO
   .
   # MRSA pneumonia: Still with fevers, leukocytosis, likely from
   subtherapeutic vanc trough.
   -          Increase vanc to [**Hospital1 **] and d/c zosyn
   -          F/u blood
   .
   # E coli UTI: Sensitive to pip-tazo, but would narrow as this E coli is
   pansensitive.
   - Change pip-tazo to ceftriaxone for 7 day course.
   .
   #. Hypotension: Improved. Attempting pressor wean.
          -      stop vasopressin and wean neo as tolerated
   -          wean sedation as tolerated
   -          treat infection as above
   .
   # s/p intubation: Intubated for airway protection in setting of high
   dose sedatives required for anti-anxiety
   -          Pressure support trial, wean sedation, possible extubation
   today if does well with above.
   .
   # CAD:
   - continue aspirin/statin.
   - cautious use of SLN if CP recurs given severe AS
   .
   # Constipation: Improved with bowel reg yesterday. Now with loose
   stools.
   -          Check C diff given fevers, white count
   -          Down titrate bowel regimen
   .
   # Chronic systolic CHF.  The patient has known severe HK and AK of LV
   c/w CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - Off lasix, will attempt to keep fluid balance even today
   .
   #. Acute on chronic renal failure: Likely [**2-13**] ATN, hypoperfusion during
   code. Almost resolved.
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   # Anxiety: Currently calm while intubated.
    -continue clonopin 1mg TID PRN
   .
   # FEN: cardiac diet
   - Follow lytes and replete aggressively.
   .
   # ACCESS: PIVs
   .
   # PROPHYLAXIS: heparin subq, bowel regimen as above, PPI
   .
   # CODE: No CPR; allowed 1 shock. Extubate as possible
   .
   # DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-20**] 11:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-03-26 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -start home lasix 40mg daily
   -consider starting metoprolol today
   -no VT overnight
   -started eating and drinking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-3-24**] 08:00 AM
   Ceftriaxone - [**2141-3-25**] 02:00 PM
   Vancomycin - [**2141-3-26**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-25**] 08:00 AM
   Pantoprazole (Protonix) - [**2141-3-25**] 08:00 PM
   Carafate (Sucralfate) - [**2141-3-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-26**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 98 (80 - 105) bpm
   BP: 98/66(73) {85/54(62) - 125/85(89)} mmHg
   RR: 8 (8 - 22) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 71 Inch
             Total In:
                                                                  2,120 mL
                                                                    379 mL
   PO:
                                                                  1,560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    560 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    540 mL
   Urine:
                                                                    970 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,150 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: NAD
   HEENT:  NC, AT
   CV: Tachy. Reg. systolic Murmur. Prominent precordial heave.
   Resp: CTAB
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: Trace edema right UE and bilateral  LE.; left upper extremity
   swelling > right
   Labs / Radiology
   173 K/uL
   9.4 g/dL
   80 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.4 mEq/L
   18 mg/dL
   104 mEq/L
   137 mEq/L
   29.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2141-3-21**]  01:55 PM
                             [**2141-3-21**]  05:30 PM
                             [**2141-3-22**]  02:08 AM
                             [**2141-3-22**]  04:30 PM
                             [**2141-3-22**]  08:15 PM
                             [**2141-3-23**]  05:37 AM
                             [**2141-3-24**]  05:55 AM
                             [**2141-3-24**]  02:13 PM
                             [**2141-3-25**]  04:51 AM
                             [**2141-3-26**]  04:09 AM
   WBC
   14.2
   14.5
   15.2
   15.8
   9.1
   7.2
   Hct
   30
   31.7
   33.0
   31.9
   29.1
   27.5
   29.2
   Plt
   292
   270
   207
   [**Telephone/Fax (3) 8445**]
   Cr
   1.7
   1.4
   1.2
   1.1
   1.1
   TCO2
   32
   31
   30
   Glucose
   148
   130
   212
   103
   78
   80
   Other labs: PT / PTT / INR:15.2/25.6/1.3, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   A/P:
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis now resolved, course c/b VT
   arrest and recurrent sustained VT requiring defibrillation.
   VT, s/p VT arrest: Patient continues to be stable off amiodarone and on
   mexilitine, off amiodarone. No VT overnight.
   - F/U EP recs
   - continue to keep Mag>2.0, K>4.5
   - cont mexilitine PO
   - start metoprolol today
   Left Upper Extremity Swelling
   Patient has increased left upper extremity swelling and unclear if this
   is related to line placement, blood pressure cuff, or DVT given
   prolonged hospitalization.
   - left upper extremity US to evaluate for DVT
   MRSA pneumonia/VAP: afebrile for 24 hours, leukocytosis improving now
   s/p 8 day course of vancomycin
   - continue vancomycin
   - F/u blood cultures
   E coli UTI: pansensitive
   - continue ceftriaxone for 7 day course. (abx day 1: [**2048-3-21**])
   Hypotension: Now resolved
   - vasopressin discontinued [**3-24**]
   - levophed discontinued [**2141-3-25**]
   Chronic systolic CHF: The patient has known severe HK and AK of LV c/w
   CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - will attempt to keep fluid balance even today
   - restart lasix home dose 40mg daily and start beta blocker
   s/p intubation: extubed [**3-24**]. doing well
   CAD:
   - continue aspirin/statin.
   - start beta blocker today
   - cautious use of SLN if CP recurs given severe AS
   Diarrhea: loose stools for a few days and C. diff has been negative.
   - start loperamide
     Acute on chronic renal failure: Likely [**2-13**] ATN, hypoperfusion during
   code. Now resolved
   - continue to follow
   - avoid nephrotoxins
   - renally dose meds
   Anxiety: Patient has increased anxiety in the setting of this prolonged
   hospitalization and frequent defibrillations.
   - continue clonazepam
   - psychiatry consult tomorrow
   - increase physical activity
   FEN: cardiac diet
   - Follow lytes and replete aggressively
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-20**] 11:20 AM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: No CPR; allowed 1 shock. Extubate as possible
   Disposition: OOB to chair today ; consider call-out to the floor if
   improved

2141-03-27 05:57:00 Physician Resident Progress Note
24 Hour Events:
   - No VT
   - OOB to chair
   - Psych consulted: Recommended seroquel 12.5 [**Hospital1 **] prn anxiety; use
   benzos with care; monitor Qt
   - LUE US:Venous thrombosis is seen, nearly occlusive, extending from
   the superficial left basilic and cephalic veins into the deep brachial
   and axillary veins.  The left subclavian vein appears patent. Note is
   made of pacemaker wires in the left subclavian vein ->Started heparin
   gtt. Had recurrent UGIBs in past (most recently [**10-19**]) so coumadin for
   afib had been stopped by Dr [**First Name (STitle) **]. Did not restart coumadin (will
   discuss with [**Doctor Last Name **]). Continued PPI [**Hospital1 **], sucralfate. Guaiac stools neg.
   Changed ASA 325 to 81 to decrease risk of bleeding
   - Started metoprolol 12.5 [**Hospital1 **]->uptitrated to 25 in evening. HR 90s-100;
   SBP130s-150
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-3-24**] 08:00 AM
   Ceftriaxone - [**2141-3-26**] 02:00 PM
   Vancomycin - [**2141-3-26**] 10:11 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-3-26**] 04:39 PM
   Pantoprazole (Protonix) - [**2141-3-26**] 08:08 PM
   Carafate (Sucralfate) - [**2141-3-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-3-27**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 89 (80 - 114) bpm
   BP: 112/65(77) {85/49(60) - 170/106(119)} mmHg
   RR: 17 (8 - 28) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 71 Inch
             Total In:
                                                                  1,756 mL
                                                                    245 mL
   PO:
                                                                    750 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,006 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    700 mL
   Urine:
                                                                  1,990 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -234 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: NAD
   HEENT:  NC, AT
   CV: Tachy. Reg. systolic Murmur. Prominent precordial heave.
   Resp: CTAB
   Abd: Soft. Obese. NT. Mild distension with +BS
   Ext: Trace edema right UE and bilateral  LE; left upper extremity
   swelling > right
   Labs / Radiology
   173 K/uL
   9.4 g/dL
   80 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   104 mEq/L
   137 mEq/L
   29.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2141-3-21**]  01:55 PM
                             [**2141-3-21**]  05:30 PM
                             [**2141-3-22**]  02:08 AM
                             [**2141-3-22**]  04:30 PM
                             [**2141-3-22**]  08:15 PM
                             [**2141-3-23**]  05:37 AM
                             [**2141-3-24**]  05:55 AM
                             [**2141-3-24**]  02:13 PM
                             [**2141-3-25**]  04:51 AM
                             [**2141-3-26**]  04:09 AM
   WBC
   14.2
   14.5
   15.2
   15.8
   9.1
   7.2
   Hct
   30
   31.7
   33.0
   31.9
   29.1
   27.5
   29.2
   Plt
   292
   270
   207
   [**Telephone/Fax (3) 8445**]
   Cr
   1.7
   1.4
   1.2
   1.1
   1.1
   TCO2
   32
   31
   30
   Glucose
   148
   130
   212
   103
   78
   80
   Other labs: PT / PTT / INR:15.2/83.6/1.3, CK / CKMB /
   Troponin-T:1674/5/0.11, ALT / AST:174/150, Alk Phos / T Bili:138/0.5,
   Differential-Neuts:90.9 %, Lymph:6.1 %, Mono:2.1 %, Eos:0.9 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.9 g/dL, LDH:367 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   73 year old man with hx of CAD s/p CABG and PCI, severe ischemic
   cardiomyopathy with EF ~20%, scar mediated VT s/p biV ICD implantation,
   CKD, and afib admitted with pancreatitis now resolved, course c/b VT
   arrest and recurrent sustained VT requiring defibrillation.
   Left UE DVT
   Patient
s left upper extremity swelling was in fact secondary to DVT
   confirmed on ultrasound . Patient is certainly a risk for
   anticoagulation given history of upper GI bleeds in the past.
   - continue heparin drip for anticoagulation with goal PTT 60-80
   - follow-up with primary cardiologist regarding coumadin and plan for
   long term anticoagulation
   - continue sucralfate, [**Hospital1 **] PPI, maintain active T and screen
   VT, s/p VT arrest: Patient continues to be stable off amiodarone and on
   mexilitine, off amiodarone. No VT overnight.
   - F/U EP recs
   - continue to keep Mag>2.0, K>4.5
   - continue mexilitine PO
   - increase metoprolol to 25 mg PO tid from 25 [**Hospital1 **]
   MRSA pneumonia/VAP: afebrile for 24 hours, leukocytosis improving now
   s/p 8 day course of vancomycin
   - vancomycin Day [**6-19**]
 Day # 8
 [**3-29**]
   - F/u blood cultures
   E coli UTI: pansensitive
   - continue ceftriaxone for 7 day course. (abx day 1: [**2048-3-21**])
   Chronic systolic CHF: The patient has known severe HK and AK of LV c/w
   CAD, EF 20%, AS (valve area 0.8-1.0cm) on most recent echo.  After
   discussion with Dr. [**First Name (STitle) **], echocardiogram during code showed worsened
   LV function. Cath without focal cause of ischemia/VT.
   - continue aspirin/statin.
   - will attempt to keep fluid balance even today
   - continue lasix home dose 40mg daily and increase beta blocker as
   above
   CAD: Stable
   - continue aspirin/statin.
   - increase beta blocker today
   - cautious use of SLN if CP recurs given severe AS
   Diarrhea: loose stools for a few days and C. diff has been negative.
   - continue loperamide
   Anxiety: Patient has increased anxiety in the setting of this prolonged
   hospitalization and frequent defibrillations.
   - continue clonazepam
   - appreciate psychiatry input
   - increase physical activity
   Acute on chronic renal failure, hypotension, and respiratory failure
   now improved.
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   PICC Line - [**2141-3-20**] 11:20 AM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: Sucralfate, PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to the floor
   ------ Protected Section ------
   Ventricular tachycardia markedly diminished since ablation; no shocks
   since then
   Extubated and not sob at rest
   Will transfer to floor and then to rehab
   Prognosis remains poor but hopefully the tachycardia issue has been (at
   least) temporarily stabilized
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-3-27**]
   12:23 ------